US08309577B2
To 3-bromo-5-methylpyrazin-2-amine (850 mg, 4.52 mmol) was added ethoxycarbonyl isothiocyanate (0.51 mL, 4.52 mmol) followed by toluene (1 mL). The mixture was placed in a preheated 100° C. oil bath, and within a minute, all the solids had dissolved. After 15 min, all had seized to a solid mass. After an additional 15 minutes, methanol (˜5 mL) was added and the mixture refluxed to digest the solids. The mixture was cooled to rt after 5 minutes and the solids collected by filtration, washing with methanol to give ethyl 6-methylthiazolo[5,4-b]pyrazin-2-ylcarbamate (680 mg, 2.85 mmol, 63.1% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.48 (br. s., 1H) 8.48 (s, 1H) 4.30 (q, J=7.03 Hz, 2H) 2.56-2.65 (m, 3H) 1.31 (t, J=7.15 Hz, 3H). MS (LC/MS) R.T.=2.10; [M+H]+=239.17.

reactant | 3-bromo-5-methylpyrazin-2-amine | 4.52 mmol, 850 mg | BrC=1C(=NC=C(N1)C)N | C5H6BrN3
reactant | ethoxycarbonyl isothiocyanate | 4.52 mmol, 0.51 mL | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | ˜5 mL | CO | CH4O
product | ethyl 6-methylthiazolo[5,4-b]pyrazin-2-ylcarbamate | 2.85 mmol, 680 mg, 63.1% yield | CC1=CN=C2C(=N1)SC(=N2)NC(OCC)=O | C9H10N4O2S
